US05470855
F) N,N-dimethyl N'-[2-(3-pyridyl)ethyl]ethanediamine (R1 =R2 =CH3 ; Z1 =(CH2)2 ; Z2 =(CH2)2 ; Ar2 =3-pyridyl)
11 g of 3-(2-chloroethyl)pyridine hydrochloride, 16.3 g of N,N-dimethylethane diamine, 18.5 g of sodium bicarbonate and 13 g of potassium iodide are heated in 150 ml of ethanol for about 30 hours at about 60° C. The solvent is evaporated and the residue is taken up in 100 ml of water before an aqueous solution of 10N NaOH is added to give pH 8; the aqueous phase is then extracted 3 times with 80 ml of ethyl acetate. The pooled organic phases are dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residual oil is distilled to give 6.7 g of the expected product.

reactant | 3-(2-chloroethyl)pyridine hydrochloride | 11 g | Cl.ClCCC=1C=NC=CC1
reactant | N,N-dimethylethane diamine | 16.3 g | CN(C(C)N)C | C4H12N2
reactant | sodium bicarbonate | 18.5 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 13 g | [I-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N,N-dimethyl N'-[2-(3-pyridyl)ethyl]ethanediamine | 6.7 g | CN(C(C)NCCC=1C=NC=CC1)C | C11H19N3
